US05236952
11.3 g of tin dichloride dihydrate are added to 2.25 g of 3',4'-dimethoxy-5'-nitroacetophenone dissolved in 50 ml of ethanol, whereupon the mixture is stirred at 74° for 30 minutes. Thereupon, the reaction mixture is poured on to 100 g of ice, neutralized with about 300 ml of saturated sodium hydrogen carbonate solution and treated with 150 ml of methylene chloride. The mixture is filtered and the methylene chloride phase is separated. This is dried over sodium sulfate and evaporated, and the residue is recrystallized from ether/petroleum ether. There is obtained 5'-amino-3',4'-dimethoxyacetophenone of m.p. 63°-65°.

reactant | tin dichloride dihydrate | 11.3 g | O.O.[Sn](Cl)Cl
reactant | 3',4'-dimethoxy-5'-nitroacetophenone | 2.25 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C(C)=O | C10H11NO5
reactant | sodium hydrogen carbonate | about 300 ml | C(O)([O-])=O.[Na+]
reactant | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5'-amino-3',4'-dimethoxyacetophenone | NC=1C(=C(C=C(C1)C(C)=O)OC)OC | C10H13NO3
